US05252587
1.5 ml (11.4 mmol) of a 1 molar solution of borane dimethylsulfide was added to a cooled (0° C.) solution of 0.61 g (3.8 mmol) of 4-(trimethylsilyl)-butanoic acid in 20 ml of dry tetrahydrofuran. After work-up using the standard procedure (methanol, tetramethylethylene diamine) and flash chromatography purification on silica gel eluted with a 9:1 mixture of hexane and ethyl acetate, 0.4 g of 4-(trimethylsilyl)-1-butanol was obtained as a colorless liquid.

reactant | borane dimethylsulfide | CSC.B
reactant | 4-(trimethylsilyl)-butanoic acid | 3.8 mmol, 0.61 g | C[Si](CCCC(=O)O)(C)C | C7H16O2Si
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(trimethylsilyl)-1-butanol | 0.4 g | C[Si](CCCCO)(C)C | C7H18OSi
